US07074819B2
Step 5) Synthesis of 4-(9-methanesulfonyloxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman
4-(9-Hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (435 mg, 0.89 mmol) was dissolved in dichloromethane (30 ml), to which were added triethylamine (0.62 ml, 4.47 mmol) and methanesulfonyl chloride (0.34 ml, 4.47 mmol). The reaction mixture was stirred at room temperature for 30 minutes. After the reaction was completed, water was added to the reaction solution, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate-7:3) to give the title compound (0.49 g, yield 97%) as a colorless oil.

reactant | 4-(9-Hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.89 mmol, 435 mg | OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H42O6
reactant | triethylamine | 4.47 mmol, 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.47 mmol, 0.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(9-methanesulfonyloxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.49 g, yield 97% | CS(=O)(=O)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C30H44O8S
